US04440940
To 15 g. 3-(allylamino)phenylacetic acid in 200 ml. warm chloroform is added a solution of 12 g. sodium carbonate in 150 ml. water. To the vigorously stirred solution is added 10 g. carbobenzyloxy chloride. After 2 hours stirring at 40° C., the layers are separated, washed three times with 1 N hydrochloric acid, dried, and evaorated to an oil. The oil is dissolved in 300 ml. toluene, treated with 15 ml. thionyl chloride and the solution is refluxed for 5 hours. The solvents are evaporated and the residue is dissolved three times in toluene, evaporating each time ultimately to yield 3-(N-carbobenzyloxy-allylamino)phenylacetyl chloride as a viscous, orange oil.

reactant | 3-(allylamino)phenylacetic acid | C(C=C)NC=1C=C(C=CC1)CC(=O)O | C11H13NO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | carbobenzyloxy chloride | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | water | O | H2O
product | 3-(N-carbobenzyloxy-allylamino)phenylacetyl chloride | C(=O)(OCC1=CC=CC=C1)N(C=1C=C(C=CC1)CC(=O)Cl)CC=C | C19H18ClNO3
